US04866091
A solution of 3-(2,4-difluorophenoxy)-4-nitrobenzoyl chloride (1.1 g) in dry ether (15 ml) was added dropwise to a stirred mixture of methylamine (40% in water; 2 ml) in water (8 ml) and ether (5 ml) at 5° to 8° C. The mixture was stirred for 30 minutes at 5° C. and for 30 minutes at room temperature. Precipitates in the mixture were filtered and washed with water and ether successively to give pale brown crystals of N-methyl-3-(2,4-difluorophenoxy)-4-nitrobenzamide (0.88 g).

reactant | 3-(2,4-difluorophenoxy)-4-nitrobenzoyl chloride | 1.1 g | FC1=C(OC=2C=C(C(=O)Cl)C=CC2[N+](=O)[O-])C=CC(=C1)F | C13H6ClF2NO4
reactant | methylamine | 2 ml | CN | CH5N
solvent | ether | 15 ml | CCOCC | C4H10O
solvent | water | 8 ml | O | H2O
solvent | ether | 5 ml | CCOCC | C4H10O
product | N-methyl-3-(2,4-difluorophenoxy)-4-nitrobenzamide | 0.88 g | CNC(C1=CC(=C(C=C1)[N+](=O)[O-])OC1=C(C=C(C=C1)F)F)=O | C14H10F2N2O4
